US04393216
3,4-Diaminonitrobenzene 1.91 g (12.5 m moles), selenium powder 0.99 g (12.5 m moles), water 1.6 ml (89 m moles), triethylamine 5.0 g (50 m moles) and tetrahydrofuran 100 ml were placed in a 200-ml capacity autoclave, and stirred at a temperature of 80° C. for three hours under carbon monoxide of 20 Kg/cm2. The reaction mixture obtained was worked up in the same manner as in EXAMPLE 1, to provide 5-aminobenzimidazolone 1.80 g (90.0% yield).

reactant | 3,4-Diaminonitrobenzene | 1.91 g | NC=1C=C(C=CC1N)[N+](=O)[O-] | C6H7N3O2
reactant | selenium | 0.99 g | [Se] | Se
reactant | water | 1.6 ml | O | H2O
reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-aminobenzimidazolone | 1.80 g, 90.0% yield | NC1=CC=2C(=NC(N2)=O)C=C1 | C7H5N3O
